US05658903
5-[(2-(4-Piperdinylamino)pyrimidin-4-yl]-4-(4-fluorophenyl)-1-(1-methylpiperdin-4-yl)imidazole
A mixture of 5-[(2-(1-benzyl-4-piperidinylamino)pyrimidin-4-yl]-4-(4-fluorophenyl)-1-(1-methylpiperdin-4-yl)imidazole (0.50 g, 0.95 mmol) and 10% palladium on carbon (10%) was stirred under an atmosphere of H2 for 18 h. The catalyst was removed by filtration and the filtrate was evaporated under reduced pressure. The residue was recrystallized from EtOAc/hexanes to afford the title compound as a whim solid; yield 0.98 g (24%): mp=201°-203° C.

reactant | (2-(1-benzyl-4-piperidinylamino)pyrimidin-4-yl]-4-(4-fluorophenyl)-1-(1-methylpiperdin-4-yl)imidazole | 0.95 mmol, 0.50 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=NC=CC(=N1)C=1N(C=C(N1)C1=CC=C(C=C1)F)C1CCN(CC1)C | C31H36FN7
catalyst | palladium on carbon | [Pd] | Pd
product | (2-(4-Piperdinylamino)pyrimidin-4-yl]-4-(4-fluorophenyl)-1-(1-methylpiperdin-4-yl)imidazole | N1CCC(CC1)NC1=NC=CC(=N1)C=1N(C=C(N1)C1=CC=C(C=C1)F)C1CCN(CC1)C | C24H30FN7
